US05273975
5-(Dipropylamino)-5,6-dihydro-4H-imidazo(4,5,1-ij)quinolin-2(1H)-thione (Compound 33)
Di (2-pyridyl)thiocarbonate (1.6 g, 7.2 mmol) was added to a stirred solution of 1,2,3,4-tetrahydro-N3,N3 -dipropyl-3,8-quinolinediamine (1.6 g, 6.7 mmol) in THF (50 mL). The solution was stirred for 1 hour, evaporated, and partitioned between chloroform and water. The chloroform phase was evaporated and chromatographed on silica gel using ethyl acetate:hexane (1:9) as the initial eluant to give 1.6 g of product. Crystallization from cyclohexane gave 1.3 g (67% of 5-(dipropylamino)-5,6-hydro-4H-imidazo(4,5,1-ij)quinolin-2(1H)-thione, mp 150°-151° C. Anal. Calcd. for C16H23N3S: C, 66.39; H, 8.01; N, 14.52; S, 11.08. Found: C, 66.50; H, 8.18; N, 14.56; S, 11.02.

reactant | Di (2-pyridyl)thiocarbonate | 7.2 mmol, 1.6 g | N1=C(C=CC=C1)OC(OC1=NC=CC=C1)=S | C11H8N2O2S
reactant | 1,2,3,4-tetrahydro-N3,N3 -dipropyl-3,8-quinolinediamine | 6.7 mmol, 1.6 g | C(CC)N(C1CNC2=C(C=CC=C2C1)N)CCC | C15H25N3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-(Dipropylamino)-5,6-dihydro-4H-imidazo(4,5,1-ij)quinolin-2(1H)-thione | 1.6 g | C(CC)N(C1CN2C3=C(C=CC=C3C1)NC2=S)CCC | C16H23N3S
